US06002008
4-(3-Chloro-4-methyl-phenylamino)-6,7-dimethoxy-quinoline-3 carbonitrile
Using an analogous procedure to that described in Example 367, 248.7 mg (1 mmol) of 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile in 10 mL of 2-ethoxyethanol and in the presence of 115.6 mg (1 mmol) of pyridine hydrochloride was reacted with 170.0 mg (1.2 mmol) of 2-chloro-4-amino-toluene to give 350.9 mg (99.4%) of the product as a yellow solid, m.p.>250° C., mass (electrospray, m/e): M+H 353.9,355.8.

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile | 1 mmol, 248.7 mg | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
reactant | pyridine hydrochloride | 1 mmol, 115.6 mg | Cl.N1=CC=CC=C1
reactant | 2-chloro-4-amino-toluene | 1.2 mmol, 170.0 mg | ClC1=C(C=CC(=C1)N)C | C7H8ClN
solvent | 2-ethoxyethanol | 10 mL | C(C)OCCO | C4H10O2
product | 4-(3-Chloro-4-methyl-phenylamino)-6,7-dimethoxy-quinoline-3 carbonitrile | 350.9 mg, 99.4% | ClC=1C=C(C=CC1C)NC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C19H16ClN3O2
